datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][S:10][H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9](=[C:8]([H:11])[H:12])[S:10][H:13],3.7656
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]2([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]12[H:15]>>[C:0]1([H:7])=[C:6]([H:15])[C:5]([H:13])([H:14])[C:4]([H:11])([H:12])[C:3]([H:10])[C:2]([H:9])=[C:1]1[H:8],110.876
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25],103.763
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])[H:9])([H:7])[H:8],49.4967
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([c:2]1[c:3][c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:11][C:16]([H:17])([H:18])[H:19],62.608
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]=[S:16])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])=[S:16],49.3712
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:15](=[C:16]([H:18])[H:19])[H:17])([H:5])([H:6])[H:7],10.7947
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6][S:7][H:10])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6](=[C:5]([H:8])[H:9])[S:7][H:10],-25.5224
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38],8.368
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:11],73.7221
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27][C:28]([H:31])([H:32])[H:33])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27](=[C:26]([H:29])[H:30])[C:28]([H:31])([H:32])[H:33])[H:14])([H:12])[H:13],10.7529
[C:0](=[C:1]=[C:2]([H:4])[H:5])[H:3].[C:6](=[O:7])[H:8]>>[C-:6]#[O+:7].[C:0](=[C:1]=[C:2]([H:4])[H:5])([H:3])[H:8],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:32]([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][C:32]([H:33])([H:34])[H:35],22.92832
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:27])([H:28])[H:29])[c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:26])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:23])[H:24])[H:25])([C:15]([C:16]([H:27])([H:28])[H:29])[c:17]1[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]1[H:34])[H:26])[H:5],33.9741
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3])[H:7])([H:4])([H:5])[H:6].[O:11][O:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[O:3])([H:4])([H:5])[H:6].[H:7][O:11][O:12],1.63176
